US08536165B2
B. 2-(5-Fluoro-6-phenylpyridin-3-ylamino)-5-methylbenzoic acid
A solution of tert-butyl 2-(5-fluoro-6-phenylpyridin-3-ylamino)-5-methylbenzoate (0.83 mmol, 0.313 g) in TFA (5 ml) was stirred at room temperature for 30 minutes. The solvent was reduced under reduced pressure and the crude mixture was purified by reverse phase chromatography using a 30% to 100% (Water-ACN) gradient and affording 0.119 g (40% of yield) of the expected product.

reactant | tert-butyl 2-(5-fluoro-6-phenylpyridin-3-ylamino)-5-methylbenzoate | 0.83 mmol, 0.313 g | FC=1C=C(C=NC1C1=CC=CC=C1)NC1=C(C(=O)OC(C)(C)C)C=C(C=C1)C | C23H23FN2O2
solvent | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(5-Fluoro-6-phenylpyridin-3-ylamino)-5-methylbenzoic acid | FC=1C=C(C=NC1C1=CC=CC=C1)NC1=C(C(=O)O)C=C(C=C1)C | C19H15FN2O2
